US07786132B2
(iii) 5,5-Dimethyl-1-(2-((4-(3-phenyl-2-thienyl)-2-pyrimidinyl)amino)ethyl)-2,4-imidazolidinedione
A flask charged with 3-(dimethylamino)-1-(3-phenylthiophen-2-yl)prop-2-en-1-one (52 mg, 0.20 mmol), 1-(2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethyl)guanidine hydrochloride (100 mg, 0.40 mmol) and sodium hydroxide (40 mg, 1.0 mmol) and IPA (3.0 mL) was heated to reflux under nitrogen. After 18 h, the reaction mixture was allowed to cool and then diluted with dichloromethane and water. The organic layer was separated and washed with one portion of water and two portions of brine. The organics were then concentrated and the residue purified by preparative TLC eluted with 3% MeOH/dichloromethane to afford the product (27 mg, 0.066 mmol, 33% yield). MS (M+H)+ 408.

reactant | 3-(dimethylamino)-1-(3-phenylthiophen-2-yl)prop-2-en-1-one | 0.20 mmol, 52 mg | CN(C=CC(=O)C=1SC=CC1C1=CC=CC=C1)C | C15H15NOS
reactant | 1-(2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethyl)guanidine hydrochloride | 0.40 mmol, 100 mg | Cl.CC1(C(NC(N1CCNC(=N)N)=O)=O)C
reactant | sodium hydroxide | 1.0 mmol, 40 mg | [OH-].[Na+]
reactant | IPA | 3.0 mL | CC(C)O | C3H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5,5-Dimethyl-1-(2-((4-(3-phenyl-2-thienyl)-2-pyrimidinyl)amino)ethyl)-2,4-imidazolidinedione | 0.066 mmol, 27 mg, 33% yield | CC1(C(NC(N1CCNC1=NC=CC(=N1)C=1SC=CC1C1=CC=CC=C1)=O)=O)C | C21H21N5O2S
